US09428469B2
tert-butyl 3-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and and tert-butyl 3-formylbenzoate (150 mg, 727 μmol) in MeOH (3 ml) was stirred at 45° C. for 2 days, added more tert-butyl 3-formylbenzoate (30 mg, 145 μmol) and stirring continued for 6 more days. NaBH4 (65.1 mg, 1.72 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 24 g, 2% to 5% MeOH in DCM) to afford a colorless gum (91.5 mg) which was used for the next reaction.

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | tert-butyl 3-formylbenzoate | 727 μmol, 150 mg | C(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H14O3
reactant | tert-butyl 3-formylbenzoate | 145 μmol, 30 mg | C(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H14O3
reactant | NaBH4 | 1.72 mmol, 65.1 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | tert-butyl 3-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate | 91.5 mg | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C20H21Cl2N5O2
